US05405851
Methyl 3-hydroxyphenylacetate (132.5 g, 0.80 mole) was added dropwise to a suspension of 50% NaH (43.2 g, 0.90 mole) in DMF (ie) at 0° C. under N2. The solution was stirred 1 hour at room temperature, cooled in an ice bath, and ethyl bromide (120 ml, 1.6 mole) added. The reaction mixture was stirred overnight at room temperature, filtered, and concentrated in vacuo. A solution of the residue in diethyl ether was washed with dilute NaOH solution and saturated NaCl, dried (Na2SO4) and concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with ethyl acetate: hexane (1:39→1:9) to give methyl 3-ethoxyphenylacetate (94.9 g). 1H NMR (DMSO-d6, 200 MHz) δ: 1.30 (t, J=7 Hz, 3H, ethyl CH3), 3.59 (s, 3H, ester CH3), 3.61 (s, 2H, ArCH2), 3.98 (q, J=7 Hz, 2H, ethyl CH2), 6.78-6.81 (m, 3H), 7.16-7.24 (m, 1H).

reactant | Methyl 3-hydroxyphenylacetate | 0.80 mole, 132.5 g | OC=1C=C(C=CC1)CC(=O)OC | C9H10O3
reactant | NaH | 0.90 mole, 43.2 g | [H-].[Na+]
reactant | ethyl bromide | 1.6 mole, 120 ml | C(C)Br | C2H5Br
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 3-ethoxyphenylacetate | 94.9 g | C(C)OC=1C=C(C=CC1)CC(=O)OC | C11H14O3
